US05233035
After 17.7 g of tert-butyl (3,4-dihydroxyphenylthio)acetate was dissolved in 70 ml of methylene chloride, 11.4 ml of pyridine and then 10.0 ml of acetyl chloride were added to the solution under ice cooling. After stirring for 20 minutes, water was added and the resulting mixture was extracted twice with methylene chloride. After drying over magnesium sulfate, the solvent was distilled off to give the crude product. The crude product was subjected to silica gel column chromatography and the column was eluted with hexane-ethyl acetate to give 19.7 g of tert-butyl (3,4-diacetoxyphenylthio)acetate.

reactant | tert-butyl (3,4-dihydroxyphenylthio)acetate | 17.7 g | OC=1C=C(C=CC1O)SCC(=O)OC(C)(C)C | C12H16O4S
reactant | pyridine | 11.4 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 10.0 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (3,4-diacetoxyphenylthio)acetate | 19.7 g | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)SCC(=O)OC(C)(C)C | C16H20O6S
